US08530486B2
3-phthalimidopropanesulfonyl chloride
Potassium-3-phthalimidopropane-1-sulfonate (6.0 g) was suspended in dry toluene (25 ml) under a nitrogen atmosphere and heated to reflux. Then 4.11 g of PCl5 was added in portions and the mixture was heated at reflux for 60 minutes. A second portion of 4.11 g of PCl5 was added and heating was continued for 90 minutes. The reaction mixture was evaporated to dryness and crushed ice was added to the residual solid. When the ice had just molten, the solid was filtered off and dried in vacuo to yield 5.64 g (87%) of a solid. 1H-NMR (CDCl3) δ (ppm) 7.88-7.81 (m, 2H), 7.78-7.71 (m, 2H), 3.87 (t, J=6.5 Hz, 2H), 3.77-3.69 (m, 2H), 2.48-2.34 (m, 2H).

reactant | Potassium 3-phthalimidopropane-1-sulfonate | 6.0 g | [K].C1(C=2C(C(N1CCCS(=O)(=O)[O-])=O)=CC=CC2)=O
reactant | PCl5 | 4.11 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | PCl5 | 4.11 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-phthalimidopropanesulfonyl chloride | 5.64 g, 87% | C1(C=2C(C(N1CCCS(=O)(=O)Cl)=O)=CC=CC2)=O | C11H10ClNO4S
